US05607956
1-(3,5-Dimethyl-4-isoxazolyl)-1-(3-thienyl)ethanol
The title compound was prepared following the general method of Example 4 but starting with 4-acetyl-3,5-dimethylisoxazole and 3-bromothiophene. M.p. 93.5°-95° C.

reactant | 4-acetyl-3,5-dimethylisoxazole | C(C)(=O)C=1C(=NOC1C)C | C7H9NO2
reactant | 3-bromothiophene | BrC1=CSC=C1 | C4H3BrS
product | 1-(3,5-Dimethyl-4-isoxazolyl)-1-(3-thienyl)ethanol | CC1=NOC(=C1C(C)(O)C1=CSC=C1)C | C11H13NO2S
